US09227923B2
Step 10-7: Synthesis of 4-(aminomethyl)-3-chloro-N-[2,6-dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)phenyl]benzamide (Compound No. 5-228).
Tert-butyl (2-chloro-4-{[2,6-dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-phenyl]carbamoyl}benzyl)carbamate (0.85 g) was dissolved in methylene chloride (15 ml). Trifluoroacetic acid (2 ml) was added to the solution, and the mixture was stirred at room temperature for 16 hours. The solvent was distilled off under reduced pressure. The residue was dissolved in methylene chloride (15 ml), and an aqueous solution of potassium carbonate was added to the solution under stirring. The organic phase was separated and the aqueous layer was extracted with methylene chloride and dried over magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off under reduced pressure to obtain a crude product (0.65 g) of 4-(aminomethyl)-3-chloro-N-[2,6-dichloro-4-(1,1,1,2,3,3,3heptafluoro propan-2-yl)-phenyl]benzamide. The crude product was used for the next step without further purification.

reactant | Tert-butyl (2-chloro-4-{[2,6-dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-phenyl]carbamoyl}benzyl)carbamate | 0.85 g | ClC1=C(CNC(OC(C)(C)C)=O)C=CC(=C1)C(NC1=C(C=C(C=C1Cl)C(C(F)(F)F)(C(F)(F)F)F)Cl)=O | C22H18Cl3F7N2O3
reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-(aminomethyl)-3-chloro-N-[2,6-dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)phenyl]benzamide | 0.65 g | NCC1=C(C=C(C(=O)NC2=C(C=C(C=C2Cl)C(C(F)(F)F)(C(F)(F)F)F)Cl)C=C1)Cl | C17H10Cl3F7N2O
